US08304036B2
5.5 ml (32.3 mmol) of TMP are initially introduced at −20° C. in 50 ml of THF, and 20.0 ml (31.8 mmol, 15% soln. in hexane) of n-BuLi are metered in. The mixture is warmed to 5° C., and a solution of 10.0 g (26.5 mmol) of 2-(2′,3′-difluoro-4′-propoxybiphenyl-4-yl)selenophene in 100 ml of THF is metered in. The batch is warmed to RT and stirred for 30 min. The mixture is cooled to −70° C., and 3.5 ml (35.0 mmol) of N-formylmorpholine are added. The reaction mixture is warmed to RT and stirred for 1 h. 2 N hydrochloric acid is added, and the batch is added to 1 l of water. The solid forming is filtered off and crystallised from toluene, giving 5-(2′,3′-difluoro-4′-propoxybiphenyl-4-yl)selenophene-2-carbaldehyde as a brown solid.

reactant | n-BuLi | 31.8 mmol, 20.0 ml | [Li]CCCC
reactant | 2-(2′,3′-difluoro-4′-propoxybiphenyl-4-yl)selenophene | 26.5 mmol, 10.0 g | FC1=C(C=CC(=C1F)OCCC)C1=CC=C(C=C1)C=1[Se]C=CC1 | C19H16F2OSe
reactant | N-formylmorpholine | 35.0 mmol, 3.5 ml | C(=O)N1CCOCC1 | C5H9NO2
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | water | 1 l | O | H2O
product | 5-(2′,3′-difluoro-4′-propoxybiphenyl-4-yl)selenophene-2-carbaldehyde | FC1=C(C=CC(=C1F)OCCC)C1=CC=C(C=C1)C1=CC=C([Se]1)C=O | C20H16F2O2Se
